US05324730
Under a stream of argon gas, N2 -(4,4'-dimethoxytrityl)-9-[(1R,2R,3S)-2-(4,4'-dimethoxy-trityl)oxymethyl-3-hydroxymethyl-1-cyclobutyl]-guanine (360 mg, 0.41 mmole), 4-(dimethylamino)-butyric acid hydrochloride (138.7 mg, 0.83 mmole) and 4-(dimethyl-amino)-pyridine (10.1 mg, 0.08 mmole) are dissolved into DMF (4 ml), and then the DMF is distilled off under reduced pressure. The residue is dissolved into DMF (4 ml). Pyridine (0.17 ml, 2.07 mmoles) and dicyclohexyl-carbodiimide (DCC) (170.8 mg, 0.83 mmole) are added thereto, and the resulting mixture is stirred at room temperature overnight. After adding water (4 ml) to the reaction mixture and stirring the mixture for one hour, ethyl acetate and water are added and insoluble matter is filtered off. The filtrate is extracted with ethyl acetate. The extract layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. Then, volatile substances are distilled off under reduced pressure. 80% acetic acid (30 ml) is added to the residue and stirred overnight. After distilling off the volatile substances from the reaction mixture under reduced pressure, water is added and the water is distilled off. Water is added to the residue and the resulting mixture is washed with ether, after which pH value is adjusted to 9. The solution thus obtained is purified by CM Sephadex column chromatography (water, 0.5M NaCl) and then de-salted by the use of a de-salting apparatus (Microacylizer G-1, mfd. by Asahi Kasei Kogyo) to obtain 9-[(1R,2R,3S)-3-(4-dimethylamino-butyryl)oxymethyl-2-hydroxymethyl-1-cyclobutyl]-guanine hydrochloride (52.0 mg, 30.3%).

reactant | N2 (4,4'-dimethoxytrityl)-9-[(1R,2R,3S)-2-(4,4'-dimethoxy-trityl)oxymethyl-3-hydroxymethyl-1-cyclobutyl]-guanine | 0.41 mmole, 360 mg | N#N.COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)NC=2NC(C=3N=CN(C3N2)[C@H]2[C@@H]([C@H](C2)CO)COC(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)=O)C=C1
reactant | 4-(dimethylamino)-butyric acid hydrochloride | 0.83 mmole, 138.7 mg | Cl.CN(CCCC(=O)O)C
reactant | Pyridine | 2.07 mmoles, 0.17 ml | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexyl-carbodiimide | 0.83 mmole, 170.8 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethyl-amino)-pyridine | 0.08 mmole, 10.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 4 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 9-[(1R,2R,3S)-3-(4-dimethylamino-butyryl)oxymethyl-2-hydroxymethyl-1-cyclobutyl]-guanine hydrochloride | 52.0 mg, 30.3% | Cl.CN(CCCC(=O)OC[C@@H]1[C@H]([C@@H](C1)N1C=2N=C(NC(C2N=C1)=O)N)CO)C | InChI=1S/C17H26N6O4.ClH/c1-22(2)5-3-4-13(25)27-8-10-6-12(11(10)7-24)23-9-19-14-15(23)20-17(18)21-16(14)26;/h9-12,24H,3-8H2,1-2H3,(H3,18,20,21,26);1H/t10-,11-,12-;/m1./s1
